US07491487B2
1,1,1-Tris(hydroxymethyl)ethane (120.2 g) and 2-methoxypropene (75.0 g) were suspended in acetone (300 ml). After adding one drop of conc. sulfuric acid at 0° C., the mixture was stirred for 1 hour and then at room temperature for additional 2 hours. After distilling off the acetone, a fraction obtained under reduced pressure (1.7 mmHg) at 70° C. was collected to give (1,4,4-trimethyl-3,5-dioxanyl)methan-1-ol (155.2 g).

reactant | 1,1,1-Tris(hydroxymethyl)ethane | 120.2 g | OCC(C)(CO)CO | C5H12O3
reactant | 2-methoxypropene | 75.0 g | COC(=C)C | C4H8O
solvent | acetone | 300 ml | CC(=O)C | C3H6O
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
product | (1,4,4-trimethyl-3,5-dioxanyl)methan-1-ol | 155.2 g | CC1(COC(OC1)(C)C)CO | C8H16O3
